US09101616B2
Step-1: ethyl trans-2-((1H-indol-1-yl)methyl)cyclopropanecarboxylate
To a suspension of sodium hydride (60%, 55 mg, 1.4 mmol) in DMF (5 mL) was added indole (135 mg, 1.2 mmol). After stirring at room temperature for 10 min, ethyl 2-(((methylsulfonyl)oxy)methyl)cyclopropanecarboxylate (307 mg, 1.4 mmol) was added. After stirring at room temperature for 6 h, the mixture was poured into water, and the aqueous layer was extracted with EtOAc twice. The combined organic layer was dried over sodium sulfate and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with hexane/ethyl acetate (10:1-5:1) to give 153 mg (54%) of the title compound as a pale brown oil;

reactant | sodium hydride | 1.4 mmol, 55 mg | [H-].[Na+]
reactant | indole | 1.2 mmol, 135 mg | N1C=CC2=CC=CC=C12 | C8H7N
reactant | ethyl 2-(((methylsulfonyl)oxy)methyl)cyclopropanecarboxylate | 1.4 mmol, 307 mg | CS(=O)(=O)OCC1C(C1)C(=O)OCC | C8H14O5S
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | ethyl trans-2-((1H-indol-1-yl)methyl)cyclopropanecarboxylate | 153 mg, 54% | N1(C=CC2=CC=CC=C12)C[C@H]1[C@@H](C1)C(=O)OCC | C15H17NO2
